Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
New Metaststic Disease
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ male with history of recently diagnosed HTN, who 
presented to ___ for further evaluation of right hip 
pain and outpatient Xray showing concerning lesion, who had a 
bone scan that showed bone metastases to the right hip region, 
transferred to ___ for expedited work up.

Patient notes he is generally very healthy and has not followed 
up with a PCP for ___ years until recently, when he followed up 
for right anterior thigh pain. The pain feels muscular in nature 
and does not feel deep/bony. He had a hip Xray ordered ___ 
which showed a suspicious lesion. The outpatient
doctor referred patient to the local ___ to have bone scan and 
MRI. Unfortunately these found evidence of diffuse metastatic 
disease in right hip, iliac crests, shoulders, humerus, and 
prostate enlargement and bladder thickening concerning for 
prostate primary. Additionally, PSA >450.

Patient endorsed a 15 pound involuntary weight loss over the 
past two months. Also notes he has been having right hip pain. 
However has had no chest pain or shortness of breath, no 
coughing, no abdominal pain nausea vomiting or diarrhea. Denies 
sweats, chills, changes in urine, blood in urine, increased 
frequency/urgeny. Does endorse erectile dysfunction x past year, 
but only intermittently. No new lumps or bumps. Rectal exam done 
at ___ was Hemoccult negative but with evidence of an 
enlarged prostate. 
 
In the ___, initial VS were:  98.2 ___ 20 99% RA 

Exam notable for: well-appearing, has full range of motion of 
all his extremities. He is neurologically intact. 

Labs showed: Hgb 12.3, INR 1.2, chemistries WNL, lactate 1.2,
LFTs WNL except for alk phos 1397. ___: PSA >450
Imaging showed: N/A
Patient received: N/A.

Transfer VS were:  98.6  77  127/58  16  98% RA 

On arrival to the floor, patient endorses above story. Denies 
any active pain. Denies weakness, parasthesias, bowel or urine 
incontinence/retention, fevers, chills, sweats. Feels well, no 
complaints. 
 
REVIEW OF SYSTEMS:  
10 point ROS reviewed and negative except as per HPI  
 
 
Past Medical History:
ESSENTIAL (PRIMARY) HYPERTENSION 
ILIOTIBIAL BAND SYNDROME, RIGHT LEG 
JOINT EFFUSION-L/LEG 
JOINT PAIN-L/LEG 
OTHER EXTERNAL CAUSE STATUS 
OVEREXERTION FROM SUDDEN STRENUOUS MOVEMENT 
SPRAIN HIP & THIGH NEC 
UNILATERAL PRIMARY OSTEOARTHRITIS, RIGHT HIP 
 
Social History:
___
Family History:
HTN - Maternal Aunt, ___ Cousin
___ Cancer - Mother
GIST - Wife
 
Physical ___:
ADMISSION PHYSICAL
==================
VS: 98.5  149 / 89  85  18  97% RA  
GENERAL: NAD, very pleasant, appears younger than stated age.  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM  
NECK: supple, NO supraclavicular LAD, no JVD  
HEART: RRR, S1/S2, III/VI systolic murmur, No gallops, or rubs   

LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: ___, moving all 4 extremities with purpose. ___ upper
and lower strength and intact gross sensation.  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes 
MSK: Enlarged olecranon (present for years) on right, mild
tenderness over mid right anterior thigh. Mild tenderness over
right lateral hip. Otherwise no bony tenderness elsewhere. Full
range of motion of hips, shoulders.

DISCHARGE PHYSICAL
==================
VS: 97.7PO, 168/99, 71, 18, 96% Ra    
GENERAL: NAD, very pleasant 
HEENT: EOMI, PERRL, MMM  
NECK: supple, NO supraclavicular LAD, no JVD  
HEART: RRR, S1/S2, III/VI systolic murmur, no gallops or rubs   
LUNGS: CTAB, no wheezes, rales, rhonchi 
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding
LYMPH: no cervical, supraclavicular, axillary, inguinal LAD
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: ___, moving all 4 extremities with purpose. ___ upper
and lower strength and intact sensation grossly.  
SKIN: warm and well perfused
MSK: Enlarged right olecranon, mild tenderness over mid right
anterior thigh. TTP right lateral hip. ROM preserved.
 
Pertinent Results:
ADMISSION LABS
==============
___ 10:00PM BLOOD WBC-6.2 RBC-4.11* Hgb-12.3* Hct-35.6* 
MCV-87 MCH-29.9 MCHC-34.6 RDW-13.2 RDWSD-41.2 Plt ___
___ 10:00PM BLOOD Neuts-51.6 ___ Monos-8.2 Eos-6.7 
Baso-1.0 Im ___ AbsNeut-3.22 AbsLymp-1.98 AbsMono-0.51 
AbsEos-0.42 AbsBaso-0.06
___ 10:00PM BLOOD ___ PTT-26.4 ___
___ 10:00PM BLOOD Glucose-99 UreaN-14 Creat-0.8 Na-140 
K-4.3 Cl-100 HCO3-24 AnGap-16
___ 10:00PM BLOOD ALT-16 AST-30 AlkPhos-1357* TotBili-0.5
___ 10:00PM BLOOD Lipase-31
___ 10:00PM BLOOD Albumin-4.2
___ 10:22PM BLOOD Lactate-1.3
___ 11:06PM URINE Color-Yellow Appear-Clear Sp ___
___ 11:06PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 11:06PM URINE RBC-1 WBC-2 Bacteri-NONE Yeast-NONE Epi-0
___ 11:06PM URINE Mucous-FEW*
___ 04:05PM URINE Hours-RANDOM TotProt-27

MICRO/PERTINENT RESULTS
=======================
Urine Culture ___: <10,000 bacteria
Blood Culture ___: Pending, No Growth To Date

SPEP/UPEP - Pending
___ 05:30AM BLOOD calTIBC-243* Hapto-329* TRF-187*
___ 05:30AM BLOOD LD(LDH)-338* TotBili-0.4 DirBili-<0.2 
IndBili-0.4

IMAGING
=======
CT Abd/Pelvis w/ Contrast ___. Diffuse sclerotic osseous metastatic disease.
2. Mild loss of vertebral body height noted at L3 and T12 with 
suggestion of posterior cortical breakthrough and epidural soft 
tissue component, this would better be evaluated on MRI.
3. Enlarged right pelvic sidewall and retroperitoneal 
adenopathy, highly
concerning for additional sites of metastases.

CT Chest w/ Contrast ___. Diffuse sclerotic osseous metastatic disease.
2. Mild compression of the T12 vertebral body with posterior 
cortical
breakthrough and suggestion of an epidural soft tissue 
component, which could be better assessed with MRI.
3. No additional evidence of metastatic disease in the chest.
 
RECOMMENDATION(S):  Mild compression of the T12 vertebral body 
with posterior cortical breakthrough and suggestion of an 
epidural soft tissue component, which could be better assessed 
with MRI.

DISCHARGE LABS
==============
___ 07:16AM BLOOD WBC-6.6 RBC-4.15* Hgb-12.2* Hct-36.3* 
MCV-88 MCH-29.4 MCHC-33.6 RDW-13.4 RDWSD-42.8 Plt ___
___ 07:16AM BLOOD Glucose-130* UreaN-18 Creat-0.9 Na-140 
K-4.6 Cl-100 HCO3-24 AnGap-16
___ 07:16AM BLOOD Calcium-9.1 Phos-3.5 Mg-2.0

 
Brief Hospital Course:
Mr. ___ is a ___ male with history of recently 
diagnosed HTN, who presented to ___ for further 
evaluation of right hip pain after outpatient right hip xray 
demonstrated a suspicious lesion, who subsequently had a bone 
scan and MRI pelvis that showed diffuse bone metastases, and was 
then transferred to ___ for expedited work-up of unknown 
primary cancer.

# Diffuse Metastatic Cancer
The patient presented to the ___ emergency department 
after an outpatient x-ray of his right hip was suspicious for a 
bony lesion. While at ___, he underwent a nuclear med bone 
scan which showed diffuse disease in his pelvis, spine, right 
femur, and humerus. An MRI of his pelvis revealed a 9 cm lesion 
wrapping his femoral neck. The patient was then subsequently 
transferred to ___ for expedited workup of an unknown primary. 
Upon arrival, the patient was found to have an alk phos 1397, 
PSA >450, noted a 15lbs unintentional weight loss, and a rectal 
exam that was notable for an enlarged prostate. Apart from 
prostate cancer, multiple myeloma was also considered on the 
differential. SPEP and UPEP were sent and were pending. Oncology 
was consulted to provide further recommendations during this 
hospital stay and were asked to comment on whether anything 
needed to be done while the patient was an inpatient. Orthopedic 
oncology was consulted about the risk of femoral neck fracture 
given the large lesion in the patient's right hip. Per their 
recommendations, the patient was advised to use a cane or walker 
during ambulation and avoid exerting himself. ___ was consulted 
for possible bone biopsy but one could not be arranged over the 
weekend but was scheduled for ___ at 9AM. The 
patient was discharged with close follow-up with his PCP, 
___, orthopedics, and ___ for bone biopsy. The patient was 
asked to use NSAIDs if he started experiencing bony cancer pain. 
He was also told to discuss bone health with his PCP given his 
high risk of fracture.

# Anemia, normocytic
Patient was noted to have a hemoglobin of 12.3 on admission. The 
anemia was normocytic. There were no concerns for active GI 
bleed or overt signs of bleeding. His anemia was thought to be 
likely due to myelosuppression in the setting of diffuse bony 
metastases and an unknown primary cancer.

CHRONIC ISSUES
==============
# Hypertension
Patient was recently diagnosed with hypertension in the past 
week, however had not started his new medication. He was 
initiated on 5 mg of amlodipine daily during his hospital stay.

TRANSITIONAL ISSUES
===================
[] Recommend assessment of bone health with DEXA, Ca/Vit 
supplementation, and utility of bisphosphonate use
[] Recommend age-appropriate cancer screening
[] Recommend close follow-up with ___ oncology after bone 
biopsy scheduled for ___

CODE: Full
HCP: ___ (Wife) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY  
2.Rehab Services
ICD 10: C80.1
Length of Need: 99 Days
Please provide rolling walker to patient
Prognosis: Good

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses
=================
Unknown primary cancer with diffuse bony metastases

Secondary Diagnoses
===================
Hypertension
Anemia, normocytic

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you in the hospital!

Why was I admitted to the hospital?
-You your transferred from ___ to ___ after finding 
signs of cancer in multiple bones of your body

What happened while I was admitted to the hospital?
-Your seen by the oncologists to determine whether you needed 
any further inpatient management of your disease
-The oncologic orthopedist recommended that you use a cane or 
walker when you leave because you have evidence of cancer in 
your right femur and there is a risk of bone fracture
-Your lab numbers were closely monitored and you were continued 
on your home medications

What should I do after I leave the hospital?
-Please continue taking all of your medications as prescribed, 
details below
-You will be contacted with an appointment from the oncologist
-Please avoid exerting yourself and use you walker when walking 
at all times
-Keep all of your appointments as scheduled 

We wish you the very best! 

Your ___ Care Team
 
Followup Instructions:
___